US08609675B2
Step M—Synthesis of ethyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(1-ethoxyvinyl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate (Int-4n)
To a 2-5 mL microwave vessel was charged ethyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate (Int-4m, 150 mg, 0.19 mmol), Pd(PPh3)4 (33 mg, 0.029 mmol), tributyl (1-ethoxyvinyl)tin (190 μL, 0.56 mmol), and 1,4-dioxane (2 mL). The vial was flushed with argon and sealed. The reaction was heated to 100° C. for 18 hours. After 18 hours, the solvent was removed in vacuo and the residue was purified via silica gel chromatography to yield the title compound. Yield=113 mg.

reactant | ethyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate | 0.19 mmol, 150 mg | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)CC2CCC(CC2)C(=O)OCC)Br)COCC[Si](C)(C)C)(C)C | C39H56BrN5O4Si2
reactant | tributyl (1-ethoxyvinyl)tin | 0.56 mmol, 190 μL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
catalyst | Pd(PPh3)4 | 0.029 mmol, 33 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | ethyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(1-ethoxyvinyl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)CC2CCC(CC2)C(=O)OCC)C(=C)OCC)COCC[Si](C)(C)C)(C)C | C43H63N5O5Si2
